US07163940B2
To a solution of 1-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-2-butyn-1-ol (1.04 g, 3.30 mmol) in chloroform (50 mL) was added manganese dioxide (5.70 g, 65.6 mmol). The reaction mixture was stirred at room temperature for 3 hours. The suspension was filtered through a pad of Celite and the filtrate was concentrated in vacuo to give 1-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-2-butyn-1-one (950 mg, 91%). Rf 0.44 (3:1 hexanes:ethyl acetate); 1H NMR (CDCl3) δ 8.49 (d, 1H), 7.73 (m, 2H), 7.50 (t, 1H), 7.19 (m, 3H), 1.71 (3H); 19F NMR (CDCl3) δ −112.58; mp 182–183° C.

reactant | 1-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-2-butyn-1-ol | 3.30 mmol, 1.04 g | ClC1=CC=CC=2N1N=C(C2C(C#CC)O)C2=CC=C(C=C2)F | C17H12ClFN2O
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 65.6 mmol, 5.70 g | [O-2].[O-2].[Mn+4]
product | 1-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-2-butyn-1-one | 950 mg, 91% | ClC1=CC=CC=2N1N=C(C2C(C#CC)=O)C2=CC=C(C=C2)F | C17H10ClFN2O
